US07872036B2
0.8 g of [5-(5-trifluoroacetylamino-3-trifluoromethyl-1,2,4-triazolyl)-4-fluoro-2-methylphenyl]2,2,2-trifluoroethyl sulfide was dissolved in 50 ml of chloroform, and 0.3 g of m-chloroperbenzoic acid was added at 0° C., followed by stirring at room temperature for 1 hour. The solvent was distilled off under reduced pressure, and the obtained solid was purified by column chromatography (eluent ethyl acetate:hexane=1:1) to obtain 0.6 g of [5-(5-trifluoroacetylamino-3-trifluoromethyl-1,2,4-triazolyl)-4-fluoro-2-methylphenyl]2,2,2-trifluoroethyl sulfoxide as a pale yellow powder (melting point 233 to 237° C.).

reactant | [5-(5-trifluoroacetylamino-3-trifluoromethyl-1,2,4-triazolyl)-4-fluoro-2-methylphenyl]2,2,2-trifluoroethyl sulfide | 0.8 g | FC(C(=O)NC1=NC(=NN1C=1C(=CC(=C(C1)C(C(F)(F)F)SC(C(F)(F)F)C1=C(C=C(C(=C1)N1N=C(N=C1NC(C(F)(F)F)=O)C(F)(F)F)F)C)C)F)C(F)(F)F)(F)F | C28H14F20N8O2S
reactant | m-chloroperbenzoic acid | 0.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | [5-(5-trifluoroacetylamino-3-trifluoromethyl-1,2,4-triazolyl)-4-fluoro-2-methylphenyl]2,2,2-trifluoroethyl sulfoxide | 0.6 g | FC(C(=O)NC1=NC(=NN1C=1C(=CC(=C(C1)C(C(F)(F)F)S(=O)C(C(F)(F)F)C1=C(C=C(C(=C1)N1N=C(N=C1NC(C(F)(F)F)=O)C(F)(F)F)F)C)C)F)C(F)(F)F)(F)F | C28H14F20N8O3S
